US05730901
12 g of potassium t-butoxide was added to a mixture of 35 g of methoxymethyltriphenylphosphonium chloride and 200 ml of THF to prepare an orange ylide solution. A solution of 28 g of 4-n-heptyl-4-phenyl-4-silacyclohexanone in 50 ml of THF was added to the solution. After agitation for 2 hours at room temperature, the mixture was poured into iced water and extracted with methylene chloride. The extract was washed, dried and concentrated by a usual manner. n-Hexane was added to the resultant concentrate, followed by removal of the resultant triphenylphosphine oxide crystals by filtration. The resultant filtrate was concentrated. The concentrate was hydrolyzed with 100 ml of 20% hydrochloric acid, followed by washing, drying and concentration by a usual manner to obtain 4-n-heptyl-4-phenyl-4-silacyclohexane carbaldehyde.

reactant | potassium t-butoxide | 12 g | CC(C)([O-])C.[K+]
reactant | methoxymethyltriphenylphosphonium chloride | 35 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-n-heptyl-4-phenyl-4-silacyclohexanone | 28 g | C(CCCCCC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C18H28OSi
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-n-heptyl-4-phenyl-4-silacyclohexane carbaldehyde | C(CCCCCC)[Si]1(CCC(CC1)C=O)C1=CC=CC=C1 | C19H30OSi
